US05079247
N-[6-Chloro-1-(phenymethyl)benz[cd]indol-2(1H)-ylidene]-1H-imidazole-1-propanamine
A mixture of 3.1 g of 6-chloro-1-(phenylmethyl)benz[cd]indole-2(1H)-thione (Cr), 1.4 g of 1H-imidazole-1-propanamine, 250 ml of ethanol, 75 ml of dimethylformamide, and 3.5 g of mercuric acetate is reacted as described in Example 3, giving 2.6 g of the desired product, mp 147°-149° C.

reactant | 6-chloro-1-(phenylmethyl)benz[cd]indole-2(1H)-thione | 3.1 g | ClC=1C=2C3=C(C(N(C3=CC1)CC1=CC=CC=C1)=S)C=CC2 | C18H12ClNS
reactant | 1H-imidazole-1-propanamine | 1.4 g | N1(C=NC=C1)CCCN | C6H11N3
reactant | ethanol | 250 ml | C(C)O | C2H6O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | N-[6-Chloro-1-(phenymethyl)benz[cd]indol-2(1H)-ylidene]-1H-imidazole-1-propanamine | 2.6 g | ClC=1C=2C3=C(C(N(C3=CC1)CC1=CC=CC=C1)=NCCCN1C=NC=C1)C=CC2 | C24H21ClN4
